Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1](/[C:2](=[C:3](/[O:4][N+:6]#[C-:5])[H:9])[H:8])[H:7],87.9320425969796
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:5]([C:3]([C:2]([H:9])([H:11])[H:12])([C:4]([H:14])([H:15])[H:16])[H:13])[C:6](=[O:7])[H:18])([H:8])([H:10])[H:17],100.963869487906
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:12])[C@:3]([O:4][H:14])([H:13])[C:5]([H:15])([H:16])[C:6]1([H:17])[H:18])([H:8])([H:9])[H:10].[O:7]([H:11])[H:19],86.96046923968271
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:15].[C:4](=[C:5]([H:14])[H:16])([C:6]#[N:7])[H:13].[O:2]=[C:3]([H:11])[H:12],77.94611239469259
[C:1]([C:2]([O:3][C@@:4]([O:5][H:15])([C:6](=[O:7])[H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],27.214247273370603
[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[N:1]([C:2]1=[C:5]=[N:6][C:4]([H:11])([H:12])[C:3]1([H:9])[H:10])([H:7])[H:8],65.61581805220571
[C:1]([c:2]1[c:3]([H:11])[o:4][c:5]([O:6][H:12])[n:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3])[N:7]=[C:5]([O:4][H:11])[O:6][H:12])([H:8])([H:9])[H:10],85.7115903895493
[O:1]([C:2]([C@:3]1([H:11])[C:4]([N+:7]#[C-:6])=[C:5]1[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],61.266864978629414
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:7](\[C:6]([C:4](=[C:3]([H:12])[H:13])[O:5][H:14])([H:15])[H:16])[H:17])[H:11])([H:8])([H:9])[H:10],54.0248181996914
[C:1]1([H:8])([H:9])[C@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([H:11])[C@:6]1([C:7][H:14])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],28.467345151850004
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([N:4]([H:13])[H:14])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[N:4][H:13])([H:7])([H:8])[H:9].[C:5]=[N:6][H:14],45.9425109472037
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:15].[C:2](=[N:3]/[C:4](=[C:5](\[N+:6]#[C-:7])[H:14])[H:13])([H:11])[H:12],103.242297837274
[C-:2]1=[C:7]([H:17])[C:6]([H:15])([H:16])[C+:4]([O:5][H:14])[C:3]1([H:12])[H:13].[C:1]([H:8])([H:9])([H:10])[H:11]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],29.95289842264161
[C:3](=[N+:4]=[N-:5])([H:6])[H:7].[O+:1]#[C-:2]>>[O-:1][C:2](=[C:3]([N+:4]#[N:5])[H:7])[H:6],58.8738858610112
[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8]>>[N:1]([N:6]([C@@:5]1([H:10])[C:2](=[O:3])[N:4]1[H:9])[H:11])([H:7])[H:8],115.059261674231
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])/[C:4]1=[C:5](\[C:6][H:12])[H:11])[H:7],74.1449008056867
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C@:1]12([H:9])[C:2]([H:10])=[C:3]([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]1([H:16])[C@:7]23[H:17].[H:8][H:11],93.2058229785045
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O+:6][C-:7]([H:18])[H:19])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][H:17],68.3699737511543
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8]>>[O:1](/[C:5](=[N:6]\[C:7]([C:2]([C:3](=[O:4])[H:11])([H:9])[H:10])([H:13])[H:14])[H:12])[H:8],82.7593523353779
[N:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]1([H:13])[H:14].[O:1]=[C:2]=[N:7][H:15]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15],47.07445832827261
[C:4]1(=[C:7]([H:14])[H:15])[C:5]([H:12])([H:13])[O:6]1.[O:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],65.38037570374328
[C:4](=[N:5][H:10])([H:8])[H:9].[O:1]=[C:2]=[C:3]([H:6])[H:7]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],59.48138872954651
[C:6]#[N:7].[N:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],1.5606009241637047
